US06528504B2
(R)-2-Hydroxymethyl-1-(4-methoxyphenethyl)piperidine (617 mg) was dissolved in 10 ml of dichloromethane. Triethylamine (0.30 g, 2.7 mmol) and methanesulfonyl chloride (0.30 g, 2.6 mmol) were added to the obtained solution under stirring under cooling on ice. They were stirred under cooling on ice for 1 hour and then at room temperature for 4 hours. The reaction liquid was distributed in dichloromethane and saturated aqueous sodium hydrogencarbonate solution. The organic layer was dried over magnesium sulfate, and the solvent was evaporated under reduced pressure to obtain (R)-3-chloro-1-(4-methoxy-phenethyl)homopiperidine in the form of a light yellow oil (632 mg, 97%).

reactant | (R)-2-Hydroxymethyl-1-(4-methoxyphenethyl)piperidine | 617 mg | OC[C@@H]1N(CCCC1)CCC1=CC=C(C=C1)OC | C15H23NO2
reactant | Triethylamine | 2.7 mmol, 0.30 g | C(C)N(CC)CC | C6H15N
reactant | methanesulfonyl chloride | 2.6 mmol, 0.30 g | CS(=O)(=O)Cl | CH3ClO2S
reactant | sodium hydrogencarbonate | C(O)([O-])=O.[Na+]
solvent | dichloromethane | 10 ml | ClCCl | CH2Cl2
product | (R)-3-chloro-1-(4-methoxy-phenethyl)homopiperidine | Cl[C@H]1CN(CCCC1)CCC1=CC=C(C=C1)OC | C15H22ClNO
